US05070089
In 25 ml of methanol was dissolved 5.00 g (19.8 mmol.) of 1-benzhydrylpiperazine. To the solution was dropwise added under chilling with ice a solution of 1.51 g (19.8 mmol.) of carbon disulfide in 5 ml of methanol. The mixture was then stirred for 30 min. Under chilling with ice, to the stirred mixture was added a solution of 3.80 g (19.8 mmol.) of 28%-sodium methylate-in-methanol solution. The mixture was then stirred until the mixture gave a clear solution. To this was added a solution of 2.90 g (19.8 mmol.) of 97%-iodomethane in 5 ml of methanol. The mixture was then stirred at room temperature for 1.5 hours. Precipitated crystals were collected by filtration and washed with methanol, to give 5.78 g of methyl 4-diphenylmethyl-1-piperazinecarbodithioate.

reactant | 1-benzhydrylpiperazine | 19.8 mmol, 5.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | carbon disulfide | 19.8 mmol, 1.51 g | C(=S)=S | CS2
reactant | iodomethane | IC | CH3I
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | methyl 4-diphenylmethyl-1-piperazinecarbodithioate | 5.78 g | C1(=CC=CC=C1)C(N1CCN(CC1)C(=S)SC)C1=CC=CC=C1 | C19H22N2S2
